US07638515B2
4-(2-Fluoro-3-methoxyphenyl)-4-methylpentanoic acid methyl ester
23.30 g (84.33 mmol) of E/Z-4-(2-fluoro-3-methoxyphenyl)-4-methylpent-2-enoic acid methyl ester is mixed in 310 ml of ethanol with 1.2 g of palladium on carbon, and it is stirred under hydrogen atmosphere overnight at room temperature. The catalyst is removed by filtration through a glass-fiber filter, and the residue that remains after concentration by evaporation is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 19.58 g (83.4%) of the desired compound is isolated.

reactant | Z-4-(2-fluoro-3-methoxyphenyl)-4-methylpent-2-enoic acid methyl ester | COC(\C=C/C(C)(C)C1=C(C(=CC=C1)OC)F)=O | C14H17FO3
solvent | ethanol | 310 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
product | 4-(2-Fluoro-3-methoxyphenyl)-4-methylpentanoic acid methyl ester | 19.58 g, 83.4% | COC(CCC(C)(C)C1=C(C(=CC=C1)OC)F)=O | C14H19FO3
